US08404687B2
(R)—N-(4-Fluorophenyl)-4-(4-(4-fluorophenyl)phthalazin-1-yl)-2-(hydroxymethyl)piperazine-1-carboxamide hydrochloride
Treat a solution of (R)-(4-(4-(4-fluorophenyl)phthalazin-1-yl)piperazin-2-yl)-methanol (0.15 g, 0.44 mmol) in CH2Cl2 (3 ml) with 1-fluoro-4-isocyanatobenzene (0.04 g, 0.31 mmol). Stir the reaction at ambient temperature for 30 min and then concentrate the reaction mixture. Purify the resulting residue by flash silica gel chromatography (0-50% EtOAc in hexanes, then switch to 3% MeOH in CH2Cl2) to yield a solid. Dissolve the solid in MeOH (1 mL) and treat with 1 N aqueous HCl (0.13 mL, 0.13 mmol). Concentrate the solution to obtain the title compound as a solid (0.065 g, 29%). ES/MS m/z 476.0 (M+1).

reactant | (R)-(4-(4-(4-fluorophenyl)phthalazin-1-yl)piperazin-2-yl)-methanol | 0.44 mmol, 0.15 g | FC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1C[C@@H](NCC1)CO | C19H19FN4O
reactant | 1-fluoro-4-isocyanatobenzene | 0.31 mmol, 0.04 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | HCl | 0.13 mmol, 1 N, 0.13 mL | Cl | ClH
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 mL | CO | CH4O
product | (R)—N-(4-Fluorophenyl)-4-(4-(4-fluorophenyl)phthalazin-1-yl)-2-(hydroxymethyl)piperazine-1-carboxamide hydrochloride | 0.065 g, 29% | Cl.FC1=CC=C(C=C1)NC(=O)N1[C@H](CN(CC1)C1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)F)CO | InChI=1S/C26H23F2N5O2.ClH/c27-18-7-5-17(6-8-18)24-22-3-1-2-4-23(22)25(31-30-24)32-13-14-33(21(15-32)16-34)26(35)29-20-11-9-19(28)10-12-20;/h1-12,21,34H,13-16H2,(H,29,35);1H/t21-;/m1./s1
